US04668686
A suspension of 1,3-dihydro-6-(trifluoromethyl)-2H-imdazo[4,5-b]quinolin-2-thione (0.53 g, 2 mmol) in methanol (5 mL) was treated with 50% aqueous sodium hydroxide (0.18 g) to afford a solution which was cooled in an ice bath. Methyl iodide (0.3 g, 0.13 mL, 2.1 mmol) was added and the mixture stirred for 90 minutes before being filtered. The solid was washed with methanol and dried in air to give 2-(methylthio)-6-(trifluoromethyl)-1H-imidazo[4,5-b]quinoline (0.34 g, 61%), m.p. >270° C.

reactant | 1,3-dihydro-6-(trifluoromethyl)-2H-imdazo[4,5-b]quinolin-2-thione | 2 mmol, 0.53 g | FC(C=1C=CC=2C=C3C(=NC2C1)NC(N3)=S)(F)F | C11H6F3N3S
reactant | sodium hydroxide | 0.18 g | [OH-].[Na+]
reactant | Methyl iodide | 2.1 mmol, 0.13 mL, 0.3 g | CI | CH3I
solvent | methanol | 5 mL | CO | CH4O
product | 2-(methylthio)-6-(trifluoromethyl)-1H-imidazo[4,5-b]quinoline | 0.34 g, 61% | CSC=1NC=2C(=NC=3C=C(C=CC3C2)C(F)(F)F)N1 | C12H8F3N3S
